US04556413
0.48 g of sodium hydride is placed in 10 ml of absolute dimethylformamide. 1.96 g of o-chloro-p-trifluoromethyl-phenol are added dropwise and the mixture is stirred for 1 hour. 2.6 g of N-(5-fluoro-2-nitrobenzoyl)-S,S-dimethyl-sulphoximine are added and the mixture is heated to 100° C. for 90 minutes. The mixture is then cooled, poured on to 100 ml of ice-water and extracted with 50 ml of ethyl acetate. The ethyl acetate phase is washed with water, dried and evaporated, and the residue is purified by chromatography and crystallized from diethyl ether. There is obtained 1 g of N-[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyl]-S,S-dimethyl-sulphoximine, m.p. 122° C.

reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | o-chloro-p-trifluoromethyl-phenol | 1.96 g | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
reactant | N-(5-fluoro-2-nitrobenzoyl)-S,S-dimethyl-sulphoximine | 2.6 g | FC=1C=CC(=C(C(=O)N=S(=O)(C)C)C1)[N+](=O)[O-] | C9H9FN2O4S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyl]-S,S-dimethyl-sulphoximine | 1 g | ClC1=C(OC=2C=CC(=C(C(=O)N=S(=O)(C)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C16H12ClF3N2O5S
